US07259177B2
Analogously to the building block synthesis of 4-iodomethyl-5-phenyl-2-p-tolyloxazole, butane-2,3-dione-2-oxime and naphthalene-2-carbaldehyde gave 5-methyl-4-iodomethyl-2-naphthalen-2-yloxazole.

reactant | 4-iodomethyl-5-phenyl-2-p-tolyloxazole | ICC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14INO
reactant | butane-2,3-dione-2-oxime | CC(C(C)=O)=NO | C4H7NO2
reactant | naphthalene-2-carbaldehyde | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
product | 5-methyl-4-iodomethyl-2-naphthalen-2-yloxazole | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)CI | C15H12INO
